US06344485B1
A solution of 7-methyl-{[4-(1-hydroxy-hexyl)-benzyl]-amino}-heptanoate (82.2 mg, 0.235 mmol), 1-propanesulfonyl chloride (29.1 RL, 0.259 mmol) and 4-methylmorpholine (28.5 μL, 0.259 mmol) in CH2Cl2 (10 mL) was stirred at room temperature for 24 h. Additional 1-propanesulfonyl chloride (14.5 μL) and 4-methylmorpholine (14.3 μL) were added, and the reaction was stirred for 5 days. The organic solution was washed consecutively with 5.5% HCl, water, aqueous NaHCO3, and brine. The organic solution was dried (MgSO4), filtered, and concentrated to yield 7-[[(4-(1-hydroxy-hexyl)-benzyl]-(propane-1-sulfonyl)-amino]-heptanoic acid methyl ester which was used in the next step without further purification.

reactant | 7-methyl-{[4-(1-hydroxy-hexyl)-benzyl]-amino}-heptanoate | 0.235 mmol, 82.2 mg | CCCCCCC(C(=O)[O-])NCC1=CC=C(C=C1)C(CCCCC)O
reactant | 1-propanesulfonyl chloride | 0.259 mmol | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | 4-methylmorpholine | 0.259 mmol, 28.5 μL | CN1CCOCC1 | C5H11NO
reactant | 1-propanesulfonyl chloride | 14.5 μL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | 4-methylmorpholine | 14.3 μL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [(4-(1-hydroxy-hexyl)-benzyl]-(propane-1-sulfonyl)-amino]-heptanoic acid methyl ester | COC(C(CCCCC)N(S(=O)(=O)CCC)CC1=CC=C(C=C1)C(CCCCC)O)=O | C24H41NO5S
